US07572809B2
Similar procedure as described in example 10 was used, starting from 3-methyl-phenol and (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give (5-methyl-1H-pyrazol-3-yl)-(1-m-tolyloxy-6-methoxy-isoquinolin-3-yl)-amine. LC-MS m/e 361(MH+).

reactant | 3-methyl-phenol | CC=1C=C(C=CC1)O | C7H8O
reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
product | (5-methyl-1H-pyrazol-3-yl)-(1-m-tolyloxy-6-methoxy-isoquinolin-3-yl)-amine | CC1=CC(=NN1)NC=1N=C(C2=CC=C(C=C2C1)OC)OC=1C=C(C=CC1)C | C21H20N4O2
